US05763458
Proceeding as in Example 4, Step (c), but replacing 1-(4-acetylamino-5-chloro-2-methoxyphenyl)-5-chloropentan-1-one with 1-[4-acetylamino-5-chloro-2-(3,5-dimethoxybenzyloxy)phenyl]-5-chloropentan-1-one and piperidine with 4,4-dimethylpiperidine, gave 1-[4-amino-5-chloro-2-(3,5-dimethoxybenzyloxy)-phenyl]-5-(4,4-dimethylpiperidin-1-yl)pentan-1-one, m.p. 135-136° C.

reactant | 1-[4-acetylamino-5-chloro-2-(3,5-dimethoxybenzyloxy)phenyl]-5-chloropentan-1-one | C(C)(=O)NC1=CC(=C(C=C1Cl)C(CCCCCl)=O)OCC1=CC(=CC(=C1)OC)OC | C22H25Cl2NO5
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | 4,4-dimethylpiperidine | CC1(CCNCC1)C | C7H15N
product | 1-[4-amino-5-chloro-2-(3,5-dimethoxybenzyloxy)-phenyl]-5-(4,4-dimethylpiperidin-1-yl)pentan-1-one | NC1=CC(=C(C=C1Cl)C(CCCCN1CCC(CC1)(C)C)=O)OCC1=CC(=CC(=C1)OC)OC | C27H37ClN2O4
